US04533731
The same procedures for preparing 1-(3-piperidinopropyl)-3-amino-5-chloroindazole as described in Example 100 were repeated except that 1-(1-methyl-3-bromopropyl)piperidine was employed instead of the 3-bromopropylpiperidine. As a result, 1-(3-piperidinobutyl)-3-amino-5-chloroindazole was obtained.

reactant | 1-(3-piperidinopropyl)-3-amino-5-chloroindazole | N1(CCCCC1)CCCN1N=C(C2=CC(=CC=C12)Cl)N | C15H21ClN4
reactant | 1-(1-methyl-3-bromopropyl)piperidine | CC(CCBr)N1CCCCC1 | C9H18BrN
product | 1-(3-piperidinobutyl)-3-amino-5-chloroindazole | N1(CCCCC1)C(CCN1N=C(C2=CC(=CC=C12)Cl)N)C | C16H23ClN4
